US05188759
1-(2-Chloroethynyl)-2-(trans-4-pentylcyclohexyl)benzene
312.3 g (1.5 mol) of phosphorus pentachloride are added carefully to a solution of 172.4 g (1.0 mol) of methyl 4-(4-pentylcyclohexyl)phenyl ketone in 1.4 l of dichloromethane. The mixture is refluxed for 3 days and then poured onto ice; the organic phase is separated off, and the aqueous phase is extracted once with dichloromethane. The combined organic phases are evaporated on a rotary evaporator, and the residue, together with 263.2 g (2.34 mol) of potassium t-butoxide, is dissolved in 1.4 l of t-butanol. The mixture is refluxed for 15 hours and then evaporated on a rotary evaporator. The residue obtained is chromatographed on a silica gel column using petroleum ether as eluent. The eluate is evaporated on a rotary evaporator, and the product is recrystallized from petroleum ether (crystallization at -70° C.) and from 2-propanol. C 66N 70 I, η (20° C.) 13 mm2 /sec, Δn 0.208, Δε +6.7.

reactant | phosphorus pentachloride | 1.5 mol, 312.3 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | methyl 4-(4-pentylcyclohexyl)phenyl ketone | 1.0 mol, 172.4 g | C(CCCC)C1CCC(CC1)C1=CC=C(C=C1)C(=O)C | C19H28O
reactant | potassium t-butoxide | 2.34 mol, 263.2 g | CC(C)([O-])C.[K+]
reactant | dichloromethane | 1.4 l | ClCCl | CH2Cl2
solvent | t-butanol | 1.4 l | C(C)(C)(C)O | C4H10O
product | 1-(2-Chloroethynyl)-2-(trans-4-pentylcyclohexyl)benzene | ClC#CC1=C(C=CC=C1)[C@@H]1CC[C@H](CC1)CCCCC | C19H25Cl
